US08877801B2
To a microwave vial, (E)-2-(4-((2-(4-fluoro-2-methylphenyl)-6-methoxybenzo[b]thiophen-3-yl)oxy)styryl)-5-methyl-1,3,4-oxadiazole (23 mg, 0.049 mmol) and ammonium trifluoroacetate (128 mg, 0.973 mmol) were suspended in toluene (2 mL). The reaction was heated for 18 h at 180° C. under microwave irradiation. The reaction mixture was concentrated and the crude product was purified by reverse phase HPLC (neutral condition, 0.1% TFA in 20-100% CH3CN/H2O) to afford (E)-3-(4-((2-(4-fluoro-2-methylphenyl)-6-methoxybenzo[b]thiophen-3-yl)oxy)styryl)-5-methyl-4H-1,2,4-triazole (15 mg, 0.032 mmol, 65% yield) as a white solid. LC/MS (m/z, MH+): 472.1.

reactant | (E)-2-(4-((2-(4-fluoro-2-methylphenyl)-6-methoxybenzo[b]thiophen-3-yl)oxy)styryl)-5-methyl-1,3,4-oxadiazole | 0.049 mmol, 23 mg | FC1=CC(=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)OC2=CC=C(/C=C/C=1OC(=NN1)C)C=C2)C | C27H21FN2O3S
reactant | ammonium trifluoroacetate | 0.973 mmol, 128 mg | FC(C(=O)[O-])(F)F.[NH4+]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | (E)-3-(4-((2-(4-fluoro-2-methylphenyl)-6-methoxybenzo[b]thiophen-3-yl)oxy)styryl)-5-methyl-4H-1,2,4-triazole | 0.032 mmol, 15 mg, 65% yield | FC1=CC(=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)OC2=CC=C(/C=C/C1=NN=C(N1)C)C=C2)C | C27H22FN3O2S
